US03993679
N,N'-(5-Carboxy-m-phenylene)dioxamic acid
Diethyl N,N'-(5-carboxy-m-phenylene)dioxamate (1.0 gram) is stirred in 1.0N aqueous sodium hydroxide (50 ml.) for 0.5 hour. The reaction mixture is diluted with water (100 ml.) and the pH adjusted to 3 with concentrated hydrochloric acid. The resulting precipitate is collected by filtration (0.80 gram, M.P. >320°).

reactant | Diethyl N,N'-(5-carboxy-m-phenylene)dioxamate | 1.0 gram | C(=O)(O)C=1C=C(C=C(C1)NC(C(=O)OCC)=O)NC(C(=O)OCC)=O | C15H16N2O8
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1.0N, 50 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | N,N'-(5-Carboxy-m-phenylene)dioxamic acid | C(=O)(O)C=1C=C(C=C(C1)NC(C(=O)O)=O)NC(C(=O)O)=O | C11H8N2O8
